US04565425
A solution of 36.72 g of triphenylphosphine in 200 ml of methylene chloride was treated slowly at -20° C. with 23.22 g of carbon tetrabromide and stirred for a further 10 minutes. Subsequently, the mixture was added dropwise by means of a cannula to a solution, cooled to -60° C., of 6.30 g of 4-formylcyclohexanone in 100 ml of methylene chloride. The mixture was stirred at -60° C. for a further 15 minutes and then partitioned in water/methylene chloride. The aqueous phases were extracted a further twice with methylene chloride. The organic phases were washed twice with water, dried over magnesium sulphate and evaporated. Low-pressure chromatography of the resulting, pale yellow oil (16 g) on silica gel with ethyl acetate/petroleum ether (vol. 10:90) gave 12.08 g (85.8%) of 4-(2,2-dibromovinyl)cyclohexanone as a pale yellow liquid.

reactant | triphenylphosphine | 36.72 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrabromide | 23.22 g | C(Br)(Br)(Br)Br | CBr4
reactant | 4-formylcyclohexanone | 6.30 g | C(=O)C1CCC(CC1)=O | C7H10O2
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-(2,2-dibromovinyl)cyclohexanone | 12.08 g, 85.8% | BrC(=CC1CCC(CC1)=O)Br | C8H10Br2O
